US05095038
To a mixture of 1-hydroxy-6-(trifluoroacetamido)indane (4.37 g), triphenylphosphine (7.01 g), methylene chloride (70 ml) and tetrahydrofuran (7 ml), at 0° C., was added carbon tetrabromide (8.87 g) in four portions. After 15 min, the reaction mixture was allowed to warm to room temperature and stirred for 4 h. Ethyl acetate was added and the solution was washed (water, brine), dried (MgSO4) and evaporated. The residue was flashed chromatographed, eluting with methylene chloride, to give 6-(trifluoroacetamido)-3H-indene (3.09 g, 76%) as a colorless solid; mp 131.5°-132.5° C.; MS(CI), m/e=228(M+H).

reactant | 1-hydroxy-6-(trifluoroacetamido)indane | 4.37 g | OC1CCC2=CC=C(C=C12)NC(C(F)(F)F)=O | C11H10F3NO2
reactant | triphenylphosphine | 7.01 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
reactant | carbon tetrabromide | 8.87 g | C(Br)(Br)(Br)Br | CBr4
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | 6-(trifluoroacetamido)-3H-indene | 3.09 g, 76% | FC(C(=O)NC1=CC=C2CC=CC2=C1)(F)F | C11H8F3NO
